US06008230
A mixture of 3-acetyl-8-(2,6-dichlorobenzoylamino)quinoline (399 mg), hydroxylamine hydrochloride (232 mg) and sodium bicarbonate (467 mg) in ethanol was refluxed for 5 hours. The mixture was poured into water and extracted with dichloromethane. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-3-(1-hydroxyiminoethyl)quinoline (313 mg).

reactant | 3-acetyl-8-(2,6-dichlorobenzoylamino)quinoline | 399 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C18H12Cl2N2O2
reactant | hydroxylamine hydrochloride | 232 mg | Cl.NO
reactant | sodium bicarbonate | 467 mg | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 8-(2,6-dichlorobenzoylamino)-3-(1-hydroxyiminoethyl)quinoline | 313 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C(C)=NO)C(=CC=C1)Cl | C18H13Cl2N3O2
